US04230709
3-n-Butyl-5-(1-methylethylidene)-2,4-imidazolidine dione
5-Isopropylidenehydantoin (5.6 g 0.04 mole) Journal of the Chemical Society, 2265 (1955) was added to a stirred suspension of sodium hydride (2.0 g 50% dispersion-oil removed by washing with light petroleum) in dry dimethylformamide (50 ml) and the mixture then heated at 50° C. for 15 minutes after which time a cream coloured solid separated. The mixture was cooled to room-temperature, a solution of n-butyl bromide (6.0 g 0.044 mole) in dry dimethylformamide (25 ml) added and the mixture heated at 80° C. for 4 hours. The mixture was cooled to room temperature and evaporated to dryness in a rotary evaporator under reduced pressure. The residue was dissolved in water (200 ml) and extracted with ether (3×50 ml). The ethereal solution was dried (MgSO4) and the solvent removed to yield a solid (6.6 g) which was crystallised from light petroleum (b.p. 60°-80° C.) to yield the title compound as needles, m.p. 130° C. Yield=4.3 g=55%.

reactant | 5-Isopropylidenehydantoin | 0.04 mole, 5.6 g | C(C)(C)=C1C(NC(N1)=O)=O | C6H8N2O2
reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | n-butyl bromide | 0.044 mole, 6.0 g | C(CCC)Br | C4H9Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-n-Butyl-5-(1-methylethylidene)-2,4-imidazolidine dione | 6.6 g | C(CCC)N1C(NC(C1=O)=C(C)C)=O | C10H16N2O2
